* Copyright 2020 The SkyWater PDK Authors
*
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
*
*     https://www.apache.org/licenses/LICENSE-2.0
*
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.

* SKY130 Spice File.
.include "sky130_fd_pr__pfet_20v0__parasitic__diode_pw2dn.model.spice"
.subckt  sky130_fd_pr__pfet_20v0 d g s b  w=50u l=2u m=1 t=30 ad=0 as=0 pd=0 ps=0 nrd=0 nrs=0
.param rdrift_tnom_p20vhv1=1.595800e+004 vgdep=1.102900e-001 vth=7.000000e-001 vbdep=-5.260300e-001
+ vth2=+1.048000e-001 hvvsat=1.878600e+000 avsat=7.467500e-001 dw_p20vhv1=9.000000e-007 l_p20vhv1=0.50 hvvbdep=-2.490600e-002
.param
+ w_p20vhv1 = 30.0
+ fetw_p20vhv1 = 30.0
+ nrd_p20vhv1 = 2.0
+ nrs_p20vhv1 = 2.0
+ ad_p20vhv1 = '294.5*0.5'
+ as_p20vhv1 = 8.7
+ pd_p20vhv1 = '91.5*0.5'
+ ps_p20vhv1 = 60.58
+ delvto_p20vhv1 = 0.0
.param tc1_rdrift_p20vhv1=0.00621917042930238
.param tc2_rdrift_p20vhv1=0.000021055807983754
.param
+ rdrift_p20vhv1='rdrift_tnom_p20vhv1*((w_p20vhv1-dw_p20vhv1)/w_p20vhv1)*(1+tc1_rdrift_p20vhv1*(temper-30)+tc2_rdrift_p20vhv1*(temper-30)*(temper-30))*sky130_fd_pr__pfet_20v0__rdrift_mult'
m1 d1 g s b sky130_fd_pr__pfet_20v0__base  w=w_p20vhv1 l=l_p20vhv1 ad=0 as=as_p20vhv1 pd=0 ps=ps_p20vhv1 nrd=nrd_p20vhv1 nrs=nrs_p20vhv1 m=m
rldd d d1 r='abs( (1/fetw_p20vhv1)*(rdrift_p20vhv1 /(1+0*(0-0-0 ))  )*  (1+0*pwr((abs(v(s,d)+vth2-min(v(s,d1),60))/(hvvsat*(1+hvvbdep*v(s,b)))),avsat)) )' tc1 = 0 tc2 = 0 m = {m}
dnw1 d b sky130_fd_pr__pfet_20v0__parasitic__diode_pw2dn area='ad_p20vhv1/2' pj='pd_p20vhv1/2' m=m
dnw2 d1 b sky130_fd_pr__pfet_20v0__parasitic__diode_pw2dn area='ad_p20vhv1/2' pj='pd_p20vhv1/2' m=m
.model sky130_fd_pr__pfet_20v0__base.0 pmos
* DC IV MOS Parameters
+ lmin = 4.95e-07 lmax = 5.05e-07 wmin = 1.9995e-05 wmax = 3.0005e-5
+ level = 54.0
+ tnom = 30.0
+ version = 4.62
+ toxm = 1.175e-8
+ xj = 1.5e-7
+ lln = 1.0
+ lwn = 1.0
+ wln = 1.0
+ wwn = 1.0
+ lint = '4.5375e-08+sky130_fd_pr__pfet_20v0__lint_diff'
+ ll = 0.0
+ lw = 0.0
+ lwl = 0.0
+ wint = '1.2277e-08+sky130_fd_pr__pfet_20v0__wint_diff'
+ wl = 0.0
+ ww = 0.0
+ wwl = 0.0
+ xl = 0.0
+ xw = 0.0
+ mobmod = 0.0
+ binunit = 2.0
+ dwg = -4.7338e-9
+ dwb = 0.0
* BSIM4 - Model Selectors
+ igcmod = 0.0
+ igbmod = 0.0
+ rgatemod = 0.0
+ rbodymod = 1.0
+ trnqsmod = 0.0
+ acnqsmod = 0.0
+ fnoimod = 1.0
+ tnoimod = 1.0
+ permod = 1.0
+ geomod = 0.0
+ rdsmod = 0.0
+ tempmod = 0.0
+ lintnoi = 0.0
+ vfbsdoff = 0.0
+ lambda = 0.0
+ vtl = 0.0
+ lc = 5.0e-9
+ xn = 3.0
+ rnoia = 0.577
+ rnoib = 0.37
+ tnoia = 1.5
+ tnoib = 3.5
* BSIM4 - Process Parameters
+ epsrox = 3.9
+ toxe = '1.175e-08*sky130_fd_pr__pfet_20v0__toxe_mult'
+ dtox = 0.0
+ ndep = 1.7e+17
+ nsd = 1.0e+20
+ rshg = 0.1
+ rsh = '1.0*sky130_fd_pr__pfet_20v0__rshn_mult'
* Threshold Voltage Parameters
+ vth0 = '-1.2314+sky130_fd_pr__pfet_20v0__vth0_diff'
+ k1 = 0.66502
+ k2 = '0.038291+sky130_fd_pr__pfet_20v0__k2_diff'
+ k3 = -2.2405
+ dvt0 = 4.657
+ dvt1 = 0.34864
+ dvt2 = -0.030206
+ dvt0w = -2.2
+ dvt1w = 1016300.0
+ dvt2w = 0.0
+ w0 = 0.0
+ k3b = -0.172
* NEW BSIM4 Parameters for Level 54
+ phin = 0.0
+ lpe0 = 0.0
+ lpeb = 0.0
+ vbm = -3.0
+ dvtp0 = 0.0
+ dvtp1 = 0.0
* Mobility Parameters
+ vsat = 49870.0
+ ua = 2.1601000e-9
+ ub = 7.8839e-18
+ uc = -5.2815e-12
+ rdsw = 788.47
+ prwb = 0.053538
+ prwg = 0.375
+ wr = 1.0
+ u0 = '0.020636+sky130_fd_pr__pfet_20v0__u0_diff'
+ a0 = 0.4683
+ keta = -0.15457
+ a1 = 0.0
+ a2 = 0.5
+ ags = 1.51
+ b0 = 0.0
+ b1 = 0.0
* BSIM4 - Mobility Parameters
+ eu = 1.67
+ rdswmin = 0.0
+ rdw = 0.0
+ rdwmin = 0.0
+ rsw = 0.0
+ rswmin = 0.0
* Subthreshold Current Parameters
+ voff = -0.10154
+ nfactor = 0.97411
+ up = 0.0
+ ud = 0.0
+ lp = 1.0
+ tvfbsdoff = 0.0
+ tvoff = 0.0
+ cit = 5.0e-6
+ cdsc = 0.0
+ cdscb = 0.0
+ cdscd = 0.0
+ eta0 = 0.080055
+ etab = -0.0038503
+ dsub = 0.73391
* BSIM4 - Sub-threshold parameters
+ voffl = 0.0
+ minv = 0.0
* Rout Parameters
+ pclm = 0.28871
+ pdiblc1 = 0.068215
+ pdiblc2 = 0.0
+ pdiblcb = -0.025
+ drout = 0.8996
+ pscbe1 = 6.0111000e+9
+ pscbe2 = 2.897300e-9
+ pvag = 0.0
+ delta = 0.01
+ alpha0 = 1.943700e-9
+ alpha1 = 0.0
+ beta0 = 87.25
* BSIM4 - Rout Parameters
+ fprout = 0.0
+ pdits = 0.0
+ pditsl = 0.0
+ pditsd = 0.0
* BSIM4 - Gate Induced Drain Leakage Model Parameters
+ agidl = '1.3888e-08+sky130_fd_pr__pfet_20v0__agidl_diff'
+ bgidl = 1.16e+10
+ cgidl = 876.0
+ egidl = 0.66527
+ agisl = 1.3888e-8
+ bgisl = 1.6145e+9
+ cgisl = 876.0
+ egisl = 0.66527
* BSIM4 - Gate Leakage Current Parameters
+ aigbacc = 0.43
+ bigbacc = 0.054
+ cigbacc = 0.075
+ nigbacc = 1.0
+ aigbinv = 0.35
+ bigbinv = 0.03
+ cigbinv = 0.006
+ eigbinv = 1.1
+ nigbinv = 3.0
+ aigc = 0.43
+ bigc = 0.054
+ cigc = 0.075
+ nigc = 1.0
+ aigsd = 0.43
+ bigsd = 0.054
+ cigsd = 0.075
+ dlcig = 0.0
+ poxedge = 1.0
+ pigcd = 1.0
+ ntox = 1.0
+ toxref = 1.175e-8
* Temperature Effects Parameters
+ kt1 = -0.61348
+ kt2 = -0.019032
+ at = 18000.0
+ ute = -1.3724
+ ua1 = 5.52e-10
+ ub1 = -2.16e-18
+ uc1 = -4.1496e-11
+ kt1l = 0.0
+ prt = 0.0
* BSIM4 - High Speed RF Model Parameters
+ xrcrg1 = 12.0
+ xrcrg2 = 1.0
+ rbpb = 50.0
+ rbpd = 50.0
+ rbps = 50.0
+ rbdb = 50.0
+ rbsb = 50.0
+ gbmin = 1.0e-12
* BSIM4 - Flicker and Thermal Noise Parameters
+ noia = 3.0000000e+40
+ noib = 8.5300000e+24
+ noic = 8.4000000e+7
+ em = 4.1000000e+7
+ af = 1.0
+ ef = 0.88
+ kf = 0.0
+ ntnoi = 1.0
* BSIM4 - Layout Dependent Parasitic Model Parameters
+ dmcg = 0.0
+ dmcgt = 0.0
+ dmdg = 0.0
+ xgw = 0.0
+ xgl = 0.0
+ ngcon = 1.0
* Diode DC IV Parameters
* BSIM4 - Diode DC IV parameters
+ diomod = 1.0
+ njs = 1.3632
+ jss = 2.1483e-5
+ jsws = 4.02e-12
+ xtis = 10.0
+ bvs = 24.0
+ xjbvs = 1.0
+ ijthsrev = 0.1
+ ijthsfwd = 0.1
* Diode and FET Capacitance Parameters
+ tpb = 0.001671
+ tpbsw = 0.0
+ tpbswg = 0.0
+ tcj = 0.00096
+ tcjsw = 3.0e-5
+ tcjswg = 0.0
+ cgdo = '3.50e-10*sky130_fd_pr__pfet_20v0__overlap_mult'
+ cgso = '3.50e-10*sky130_fd_pr__pfet_20v0__overlap_mult'
+ cgbo = 0.0
+ capmod = 2.0
+ xpart = 0.0
+ cgsl = '1.77e-11*sky130_fd_pr__pfet_20v0__overlap_mult'
+ cgdl = '1.77e-11*sky130_fd_pr__pfet_20v0__overlap_mult'
+ cf = 1.2e-11
+ clc = 1.0e-7
+ cle = 0.6
+ dlc = '-4.35e-07+sky130_fd_pr__pfet_20v0__dlc_diff'
+ dwc = '0.0+sky130_fd_pr__pfet_20v0__dwc_diff'
+ vfbcv = -0.1446893
+ acde = 0.401
+ moin = 15.773
+ noff = 4.0
+ voffcv = 0.0
+ ngate = 1.0e+23
+ lwc = 0.0
+ llc = 0.0
+ lwlc = 0.0
+ wlc = 0.0
+ wwc = 0.0
+ wwlc = 0.0
* BSIM4 - FET and Diode capacitance parameters
+ ckappas = 0.6
+ cjs = '0.00077934735*sky130_fd_pr__pfet_20v0__ajunction_mult'
+ mjs = 0.33956
+ pbs = 0.6587
+ cjsws = '9.9605453e-11*sky130_fd_pr__pfet_20v0__pjunction_mult'
+ mjsws = 0.24676
+ pbsws = 1.0
+ cjswgs = '1.47314e-10*sky130_fd_pr__pfet_20v0__pjunction_mult'
+ mjswgs = 0.81
+ pbswgs = 3.0
* Stress Parameters
+ saref = 1.81e-6
+ sbref = 1.81e-6
+ wlod = 0.0
+ kvth0 = 3.5e-8
+ lkvth0 = 0.0
+ wkvth0 = 6.5e-7
+ pkvth0 = 0.0
+ llodvth = 0.0
+ wlodvth = 1.0
+ stk2 = 0.0
+ lodk2 = 1.0
+ lodeta0 = 1.0
+ ku0 = 7.0e-8
+ lku0 = 0.0
+ wku0 = 0.0
+ pku0 = 0.0
+ llodku0 = 0.0
+ wlodku0 = 1.0
+ kvsat = 0.4
+ steta0 = 0.0
+ tku0 = 0.0
.ends sky130_fd_pr__pfet_20v0
*.END
